US06689922B1
5-{2-[4-(6-Hydroxy-6-methylheptyl)phenyl]ethyl}benzene-1,3-diol
In a manner similar to Example 9(a), by reacting 1 g (2.9 mmol) of 5-{2-[4-(6-hydroxy-6-methylheptyl)phenyl]vinyl}benzene-1,3-diol with 100 mg of 10% palladium/carbon, whitish crystals (m=728 mg; Y=91%) are obtained. m.p.=128-30° C.

reactant | 5-{2-[4-(6-hydroxy-6-methylheptyl)phenyl]vinyl}benzene-1,3-diol | 2.9 mmol, 1 g | OC(CCCCCC1=CC=C(C=C1)C=CC=1C=C(C=C(C1)O)O)(C)C | C22H28O3
catalyst | palladium/carbon | 100 mg | [Pd] | Pd
product | 5-{2-[4-(6-Hydroxy-6-methylheptyl)phenyl]ethyl}benzene-1,3-diol | OC(CCCCCC1=CC=C(C=C1)CCC=1C=C(C=C(C1)O)O)(C)C | C22H30O3
